US07402595B2
1-(4-methanesulfonylbenzylamino)pentan-2-ol
A solution (50 ml) of 4-methanesulfonylbenzylamine (5.0 g) and 1,2-epoxypentane (2.8 g) in methanol was stirred at room temperature for 96 hrs. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate-ethyl acetate:methanol=10:1) to give the title compound (2.5 g).

reactant | 4-methanesulfonylbenzylamine | 50 ml, 5.0 g | CS(=O)(=O)C1=CC=C(CN)C=C1 | C8H11NO2S
reactant | 1,2-epoxypentane | 2.8 g | O1CC1CCC | C5H10O
solvent | methanol | CO | CH4O
product | 1-(4-methanesulfonylbenzylamino)pentan-2-ol | 2.5 g | CS(=O)(=O)C1=CC=C(CNCC(CCC)O)C=C1 | C13H21NO3S
